US05807859
To a suspension, maintained under nitrogen, of 1.8 g of (10 RS)-10-acetamido-5H,10H-imidazo[1,2-a]-indeno[1,2-e]pyrazin-4-one in 45 ml of dimethyl sulphoxide are added portionwise 960 mg of an 80% suspension of sodium hydride in oil. The mixture is stirred for 15 minutes at a temperature in the region of 20° C., followed by addition of a solution of 0.95 ml of (2-chloroethyl)benzene in 2 ml of dimethyl sulphoxide. After 15 hours at room temperature, a further 0.45 ml of (2-chloroethyl)benzene dissolved in 1 ml of dimethyl sulphoxide is added. The reaction medium is left for 6 hours at a temperature in the region of 20° C., and is then poured into a mixture of 150 g of ice, 260 ml of distilled water and 3.5 ml of acetic acid. 150 ml of ethyl acetate are added to the suspension obtained and the mixture is stirred, followed, after separation of the phases once settling has taken place, by removal of the ethyl acetate. The operation is repeated twice. The precipitate is filtered off on a sinter funnel. The solid is crystallized from 7 ml of dimethylformamide and is then recrystallized from 30 ml of methanol. 100 mg of (10 RS)-10-acetamido-10-phenethyl-5H,10H-imidazo[1,2-a]-indeno[1,2-e]pyrazin-4-one are thus obtained in the form of a grey solid melting above 260° C. (Analysis, % calculated C: 71.9, H: 5.2, N: 14.6, % found C: 71.9, H: 5.0, N: 14.6).

reactant | (10 RS)-10-acetamido-5H,10H-imidazo[1,2-a]-indeno[1,2-e]pyrazin-4-one | 1.8 g | C(C)(=O)NC1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C15H12N4O2
reactant | sodium hydride | [H-].[Na+]
reactant | (2-chloroethyl)benzene | 0.95 ml | ClCCC1=CC=CC=C1 | C8H9Cl
reactant | (2-chloroethyl)benzene | 0.45 ml | ClCCC1=CC=CC=C1 | C8H9Cl
reactant | water | 260 ml | O | H2O
solvent | dimethyl sulphoxide | 45 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulphoxide | 2 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulphoxide | 1 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 3.5 ml | C(C)(=O)O | C2H4O2
product | (10 RS)-10-acetamido-10-phenethyl-5H,10H-imidazo[1,2-a]-indeno[1,2-e]pyrazin-4-one | 100 mg | C(C)(=O)NC1(C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O)CCC3=CC=CC=C3 | C23H20N4O2
